US09290496B2
Step 5: Preparation of tert-butyl 3,3-difluoro-4-{[(trifluoromethyl)sulfonyl]oxy}pyrrolidine-1-carboxylate
A solution of tert-butyl 3,3-difluoro-4-hydroxypyrrolidine-1-carboxylate (3.4 g, 15.2 mmol) in DCM (152 mL) was cooled to −10° C. (bath temperature, methanol/ice) under nitrogen atmosphere and pyridine (6.2 mL, 76 mmol, 5 mol eq) was added. Triflic anhydride (1 M in DCM, 38 mL, 38 mmol, 2.5 mol eq) was added via an addition funnel over 30 min. The solution turned from colorless to light brown/yellow, and was stirred in the cold bath for another 30 min. The reaction was quenched with aqueous citric acid buffer (0.5 M, about 30 mL used) to give pH 4.5. The organic layer was separated, extracted with more DCM (50 mL) and the combined organic layers were dried over Na2SO4 and evaporated to give the title product as a red oil (5.56 g, 96% yield, ˜95 % purity). 1H NMR indicated pyridine (0.3 mol eq) present). 1H NMR (400 MHz, chloroform-d) δ ppm 5.18 (d, J=1.96 Hz, 1 H) 3.65-4.01 (m, 4 H) 1.49 (s, 9 H). 19F NMR (376 MHz, chloroform-d) δ ppm −75.59-−72.94 (m, 2 F) −78.39 (s, 1 F) −109.56-−105.09 (m, 1 F) −122.17-−117.49 (m, 1 F). The title product was not stable enough under LCMS condition.

reactant | tert-butyl 3,3-difluoro-4-hydroxypyrrolidine-1-carboxylate | 15.2 mmol, 3.4 g | FC1(CN(CC1O)C(=O)OC(C)(C)C)F | C9H15F2NO3
reactant | pyridine | 76 mmol, 6.2 mL | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 38 mmol, 1 M, 38 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 152 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3,3-difluoro-4-{[(trifluoromethyl)sulfonyl]oxy}pyrrolidine-1-carboxylate | 5.56 g, 96% yield | FC1(CN(CC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)F | C10H14F5NO5S
